US07351734B2
Sodium borohydride (1.5 g) was added in portions with stirring at 10-15° C. to a solution of 3-(benzo[1,3]dioxol-5-yl)-indan-1-one (10 g) in a mixture of ethanol (75 mL) and dimethoxyethane (75 mL). The mixture was stirred at rt for 1 h and then evaporated in vacuo. The resulting oil was treated with water and diethyl ether, and the organic phase was separated and washed with water and 0.1 N HCl, dried (MgSO4) and evaporated in vacuo to give cis-3-(benzo[1,3]dioxol-5-yl)-indan-1-ol as a brown oil (10 g).

reactant | Sodium borohydride | 1.5 g | [BH4-].[Na+]
reactant | 3-(benzo[1,3]dioxol-5-yl)-indan-1-one | 10 g | O1COC2=C1C=CC(=C2)C2CC(C1=CC=CC=C21)=O | C16H12O3
solvent | ethanol | 75 mL | C(C)O | C2H6O
solvent | dimethoxyethane | 75 mL | C(OC)COC | C4H10O2
product | cis-3-(benzo[1,3]dioxol-5-yl)-indan-1-ol | 10 g | O1COC2=C1C=CC(=C2)[C@H]2C[C@H](C1=CC=CC=C21)O | C16H14O3
